US05021413
4-(6-methoxy-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-yl-methyl)thiomorpholine hydrochloride
The procedure described in Example 24 was repeated, but using 0.97 g of 3-(pyrrolidin-1-ylmethyl)thiomorpholine, 1.39 ml of triethylamine and 1.23 g of 6-methoxy-3-oxoindan-1-carbonyl chloride, to afford 0.9 g of the title compound, melting at 225°-233° C.

reactant | 3-(pyrrolidin-1-ylmethyl)thiomorpholine | 0.97 g | N1(CCCC1)CC1NCCSC1 | C9H18N2S
reactant | 6-methoxy-3-oxoindan-1-carbonyl chloride | 1.23 g | COC1=CC=C2C(CC(C2=C1)C(=O)Cl)=O | C11H9ClO3
solvent | triethylamine | 1.39 ml | C(C)N(CC)CC | C6H15N
product | 4-(6-methoxy-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-yl-methyl)thiomorpholine hydrochloride | 0.9 g | Cl.COC1=CC=C2C(CC(C2=C1)C(=O)N1C(CSCC1)CN1CCCC1)=O | InChI=1S/C20H26N2O3S.ClH/c1-25-15-4-5-16-17(10-15)18(11-19(16)23)20(24)22-8-9-26-13-14(22)12-21-6-2-3-7-21;/h4-5,10,14,18H,2-3,6-9,11-13H2,1H3;1H
